US04125732
Methyl (p-chlorophenoxy){p-[(p-chlorophenoxy)methoxy]-phenyl}acetate
To a solution of 2.74 g of p-chlorophenol in 25 ml of tetrahydrofuran is added 0.85 g of 60% sodium hydride-oil dispersion. After stirring under argon at room temperature for 1 hour, 3.52 g of potassium iodide and 1 ml of hexamethylphosphoramide is added. To the mixture is added dropwise, a solution of 8.18 g of methyl bromo{p-[(p-chlorophenoxy)methoxy]phenyl}acetate in 45 ml of tetrahydrofuran. The mixture is refluxed for 18 hours. The mixture is poured into 500 ml of ice and water containing 2 ml of acetic acid. The mixture is extracted with ether and the ether extracts are washed with sodium chloride solution, sodium bicarbonate solution and with sodium chloride solution. The extract is dried (MgSO4) and the solvent removed under reduced pressure to give the product (9.5 g) as a viscous oil. Chromatography over silica gel with dichloromethane as eluent gives 7.6 g of gum which is crystallized from methanol to give 5.8 g of the product as white crystals. Recrystallization from methanol gives white crystals, mp 64°-65° C.

reactant | p-chlorophenol | 2.74 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydride | 0.85 g | [H-].[Na+]
reactant | potassium iodide | 3.52 g | [I-].[K+]
reactant | methyl bromo{p-[(p-chlorophenoxy)methoxy]phenyl}acetate | 8.18 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCOC1=CC=C(C=C1)Cl | C16H14BrClO4
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
solvent | hexamethylphosphoramide | 1 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Methyl (p-chlorophenoxy){p-[(p-chlorophenoxy)methoxy]-phenyl}acetate | 9.5 g | ClC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OCOC2=CC=C(C=C2)Cl)C=C1 | C22H18Cl2O5
